### ISSUE TITLE
Adding extra lemmas breaks `simp`

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1234]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Lean should probably remember `dischargeDepth` when caching results of `discharge?`

### Steps to Reproduce

```lean
theorem le_of_not_lt {a b : Nat} (_: ¬ a < b): b ≤ a := sorry
theorem lt_of_succ_lt          (_: a + 1 < b): a < b := sorry
theorem succ_pred_eq_of_pos        (_: 0 < v): v - 1 + 1 = v := sorry

set_option trace.Meta.Tactic.simp true
--set_option trace.Debug.Meta.Tactic.simp true


example (h₁: k ≤ v - 1) (h₂: 0 < v): 
    (if k ≤ v - 1 then Fin.mk (v-1+1) sorry else Fin.mk (v-1) sorry) = Fin.mk v sorry (n:=n) := by
    simp only [
      h₁, h₂, 
      ite_true,
      succ_pred_eq_of_pos
      ----------------
      , le_of_not_lt
      , lt_of_succ_lt
    ]

-- it works

example (h₁: k ≤ v - 1) (h₂: 0 < v): 
    (if k ≤ v - 1 then Fin.mk (v-1+1) sorry else Fin.mk (v-1) sorry) = Fin.mk v sorry (n:=n) := by
    simp (config := { memoize := false}) only [
      h₁, h₂, 
      ite_true,
      succ_pred_eq_of_pos
      ----------------
      , le_of_not_lt
      , lt_of_succ_lt
    ]
    
example (h₁: k ≤ v - 1) (h₂: 0 < v): 
    (if k ≤ v - 1 then Fin.mk (v-1+1) sorry else Fin.mk (v-1) sorry) = Fin.mk v sorry (n:=n) := by
    simp only [
      h₁, h₂, 
      ite_true,
      succ_pred_eq_of_pos
      ----------------
      --, le_of_not_lt
      --, lt_of_succ_lt
    ]
```

**Expected behavior:** example should work

**Actual behavior:** get error message

```
unsolved goals
k v n : Nat
h₁ : k ≤ v - 1
h₂ : 0 < v
⊢ { val := v - 1 + 1, isLt := (_ : v - 1 + 1 < n) } = { val := v, isLt := (_ : v < n) }
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-06-20`

**Comment by fpfu** [comment]
I haven't observed this in the debugger, so I can only guess.

First time `Lean` tries to discharge `k ≤ v - 1`:
`¬ v - 1 < k` -  by `le_of_not_lt`, `dischargeDepth = 0`
`v - 1 + 1 < k` - by `lt_of_succ_lt`, `dischargeDepth = 1`
`0 < v` - by `succ_pred_eq_of_pos`, , `dischargeDepth = 2`, failure due to `maxDischargeDepth = 2` limit

Result of not simplifying `0 < v` stored in a cache.

Later simplifier tries to discharge `0 < v` when processing `v-1+1` inside of `Fin.mk (v-1+1)` and it uses the failed attempt from the cache.

I guess Lean could store `dischargeDepth` in the cache and validate it later to discard cache entries where 
`dischargeDepth_InCache >  dischargeDepth_Current`.

**Comment by leodemoura** [comment]
@fpfu Thanks for analyzing and isolating this issue. It would be a nightmare to have to debug this issue in a big example.

**Comment by fpfu** [comment]
Thank you for a quick fix)

I didn't realize it right away, but `True` and `False`  and `refl` results from the cache could be used despite their discharge depth, if such an optimization worth it.
